US06541423B1
1.5 3-Amino-2-methyl-4-methylsulfanylbenzoic Acid
10 g of methyl 2-amino-4-methylbenzothiazole-5-carboxylate (0.045 mol.) were dissolved in a mixture of 120 ml of water, 120 ml of ethylene glycol and 50 g of NaOH, and the mixture was stirred at 130° C. for 20 h. The mixture was then diluted with 50 g of ice, 3 drops of (n-Bu)4N+OH— solution were added and finally, at 20° C., 6.25 ml of dimethyl sulfate (0.05 mol) in 15 ml of toluene were added dropwise. After 30 min, the mixture was acidified with conc. HCl and the precipitate was filtered off with suction, washed with water and dried.

reactant | methyl 2-amino-4-methylbenzothiazole-5-carboxylate | 0.045 mol, 10 g | NC=1SC2=C(N1)C(=C(C=C2)C(=O)OC)C | C10H10N2O2S
reactant | NaOH | 50 g | [OH-].[Na+]
reactant | dimethyl sulfate | 0.05 mol, 6.25 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | HCl | Cl | ClH
solvent | water | 120 ml | O | H2O
solvent | ethylene glycol | 120 ml | C(CO)O | C2H6O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Amino-2-methyl-4-methylsulfanylbenzoic Acid | NC=1C(=C(C(=O)O)C=CC1SC)C | C9H11NO2S
